US04650864
A 1000 ml round flask was charged with 4 g (105 mmoles) of NaBH4, and thereto 100 ml of DMSO was added. The mixture was stirred by magnetic stirrer until the mixture became an almost clear solution. To the solution there was slowly added 100 ml of DMSO containing 20 g (49 mmoles) of 5-tosyl-L-(+)-arabinose-diethylmercaptal for about 2 hours with stirring. After addition, the mixture was further stirred for half an hour at room temperature. Then, the mixture was heated on a water bath for one hour at 90° C with occasional stirring. After the mixture was evaporated to dryness on a water bath of 90° C. under vacuum (1 Torr), the mixture was cooled and the obtained residue was decomposed with ice water. A small amount of scum was filtered off and the obtained clear filtrate (pH>13) was made slightly acidic with 5% acetic acid. After the filtrate was thoroughly extracted with ether, the ether layer was dried with sodium sulfate and the solvent was evaporated from the ether layer to give 9.5 g of 5-deoxy-L-(+)-arabinose-diethylmercaptal as a white solid residue (yield: 81%).

reactant | NaBH4 | 105 mmoles, 4 g | [BH4-].[Na+]
reactant | 5-tosyl-L-(+)-arabinose-diethylmercaptal | C(C)SC([C@H](O)[C@@H](O)[C@@H](O)C(O)S(=O)(=O)C1=CC=C(C)C=C1)SCC | C16H26O6S3
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 49 mmoles, 100 ml, 20 g | CS(=O)C | C2H6OS
product | 5-deoxy-L-(+)-arabinose-diethylmercaptal | 9.5 g | C(C)SC([C@H](O)[C@@H](O)[C@@H](O)C)SCC | C9H20O3S2
